US08022062B2
2-Cyclopentyl-1-p-tolyl-ethanone:
Add aluminum trichloride (2.719 g, 20.4 mmol) in three portions to a solution of cyclopentylacetyl chloride (2 g, 13.6 mmol) in anhydrous toluene (30 mL) at 0° C. Stir the solution at room temperature overnight. Cool to 0° C., add water and extract the aqueous phase with EtOAc. Dry the organic phase over MgSO4, filter and concentrate in vacuo. Purify the crude mixture by chromatography on silica gel eluting with hexane and hexane/EtOAc (19:1) to give the desired intermediate as an oil (2.5 g, 91%).

reactant | aluminum trichloride | 20.4 mmol, 2.719 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | cyclopentylacetyl chloride | 13.6 mmol, 2 g | C1(CCCC1)CC(=O)Cl | C7H11ClO
reactant | water | O | H2O
reactant | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 2-Cyclopentyl-1-p-tolyl-ethanone | 2.5 g, 91% | C1(CCCC1)CC(=O)C1=CC=C(C=C1)C | C14H18O
